US07851640B2
(E)-tert-butyl 2-(2-hydroxy-4-methylphenylcarbonyl)-3-phenylprop-2-enoate:
Prepared according to general procedure A using tert-butyl 3-(2-hydroxy-4-methyphenyl)-3-oxopropanoate (250 mg, 1.0 mmol), benzaldehyde (100 μL, 1.00 mmol), 12.0 mL benzene, piperidine (10 μL, 0.10 mmol) and glacial acetic acid (5.7 μL, 0.10 mmol), refluxed for 3 h. Purified via recrystallization from hexanes/CH2Cl2, yielding 154 mg (46%) of white solid. mp=92-95° C.; IR (film) 2977.9; 1718.2; 1627.9; 1155.0 cm−1; 1H NMR (500 MHz, CDCl3) δ 11.95 (bs, 1H), 7.82 (s, 1H), 7.40 (d, J=9.6 Hz, 1H), 7.36-7.29 (m, 5H), 6.83 (s, 1H), 6.61 (d, J=8.0 Hz, 1H), 2.34 (s, 3H), 1.41 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 200.8, 163.9, 163.0, 149.0, 142.0, 133.0, 131.8, 131.7, 130.6, 130.3, 129.1, 120.9, 118.5, 118.0, 82.7, 28.1, 22.3; LRMS (electrospray): Mass calculated for C21H22O4 [M]+, 338.15. Found [M+23]+, 361.2. An NOE difference experiment was conducted for this compound and a positive NOE was seen for the alkene proton when the tert-butyl signal was irradiated and a positive NOE was seen for the tert-butyl signal upon irradiation of the alkene proton.

reactant | tert-butyl 3-(2-hydroxy-4-methyphenyl)-3-oxopropanoate | 1.0 mmol, 250 mg | OC1=C(C=CC(=C1)C)C(CC(=O)OC(C)(C)C)=O | C14H18O4
reactant | benzaldehyde | 1.00 mmol, 100 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 0.10 mmol, 10 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.10 mmol, 5.7 μL | C(C)(=O)O | C2H4O2
solvent | benzene | 12.0 mL | C1=CC=CC=C1 | C6H6
product | (E)-tert-butyl 2-(2-hydroxy-4-methylphenylcarbonyl)-3-phenylprop-2-enoate | 154 mg, 46% | OC1=C(C=CC(=C1)C)C(=O)/C(/C(=O)OC(C)(C)C)=C\C1=CC=CC=C1 | C21H22O4
